US05210252
Preparation of 3-(4-vinylphenyloxy)propyl trimethoxysilane
To a 500 ml glass flask equipped with a stirring machine, a reflux condenser, a thermometer and a dropping funnel, there were added 48.0 g (0.3 mole) of 3-(4-vinylphenyloxy)propene, 0.1 g of a 4% isopropyl alcohol solution of H2PtCl6 and 0.2 g of BHT. To the mixture, there was dropwise added 36.6 g (0.3 mole) of trimethoxysilane through the dropping funnel at 60° to 70° C. over one hour, followed by ripening at 70° C. for 30 minutes. The reaction solution was distilled to give 66.1 g of a compound having a boiling point of 147°-151° C./3 mmHg. The yield thereof was found to be 78.0%.

reactant | 3-(4-vinylphenyloxy)propene | 0.3 mole, 48.0 g | C(=C)C1=CC=C(C=C1)OCC=C | C11H12O
reactant | trimethoxysilane | 0.3 mole, 36.6 g | CO[SiH](OC)OC | C3H10O3Si
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 3-(4-vinylphenyloxy)propyl trimethoxysilane | 66.1 g | C(=C)C1=CC=C(C=C1)OCCC[Si](OC)(OC)OC | C14H22O4Si
